US07453010B2
7.2: trans-4-[4-({(2S)-2-Hydroxy-3-[4-hydroxy-3-(methylsulfonyl)phenoxy]propyl}amino)cyclohexyl]-N′-phenylbenzohydrazide
A mixture or 0.166 g of trans-4-[4-(benzyl{(2S)-3-[4-(benzyloxy)-3-(methylsulfonyl)phenoxy]-2-hydroxypropyl}amino)cyclohexyl]-N′-phenylbenzohydrazide (0.226 mmol) and of 0.1 g of 10% palladium-on-charcoal (50% in water) in a mixture of ethanol (3.9 ml) and tetrahydrofuran (2.93 ml) is placed under hydrogen atmosphere and stirred for 48 h. The catalyst is subsequently filtered off and the solvents are evaporated under reduced pressure. The title compound is obtained in the form of a white solid (0.02 g, 16%) after purification on silica gel (eluent: dichloromethane/methanol/aqueous ammonia 99/1/0.1 to 85/15/1.5 gradient in 30 min).

reactant | trans-4-[4-(benzyl{(2S)-3-[4-(benzyloxy)-3-(methylsulfonyl)phenoxy]-2-hydroxypropyl}amino)cyclohexyl]-N′-phenylbenzohydrazide | 0.226 mmol, 0.166 g | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)NNC2=CC=CC=C2)C=C1)C[C@@H](COC1=CC(=C(C=C1)OCC1=CC=CC=C1)S(=O)(=O)C)O | C43H47N3O6S
solvent | ethanol | 3.9 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 2.93 ml | O1CCCC1 | C4H8O
catalyst | palladium-on-charcoal | 0.1 g | [Pd] | Pd
product | trans-4-[4-({(2S)-2-Hydroxy-3-[4-hydroxy-3-(methylsulfonyl)phenoxy]propyl}amino)cyclohexyl]-N′-phenylbenzohydrazide | O[C@@H](CN[C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)NNC2=CC=CC=C2)C=C1)COC1=CC(=C(C=C1)O)S(=O)(=O)C | C29H35N3O6S
